US04638060
(B) N-(t-Butoxycarbonyl)-α-(3-hydroxy-2,3,4,5-tetrahydro-3-thiofuranyl)glycine
A slurry of N-(t-butoxycarbonyl)-α-(3-hydroxy-2,3,4,5-tetrahydro-3-thiofuranyl)glycine, benzyl ester (2.65 g, 7.22 mmole) in 20 ml of water was treated with potassium bicarbonate (1.0 g, 7.8 mmole) followed by 15 ml of methanol. Stirring at 25° C. for 14 hours gave a homogeneous solution which was diluted with water and extracted with ethyl acetate. The aqueous layer was acidified with 10% potassium bisulfate, saturated with sodium chloride, and extracted with ethyl acetate. Drying (sodium sulfate) and evaporation of the organic layer, and trituration of the residue with isopropyl ether gave the product as a white solid, 1.25 g, melting point 116°-118° C.

reactant | N-(t-butoxycarbonyl)-α-(3-hydroxy-2,3,4,5-tetrahydro-3-thiofuranyl)glycine, benzyl ester | 7.22 mmole, 2.65 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)C1(CSCC1)O | C18H25NO5S
reactant | potassium bicarbonate | 7.8 mmole, 1.0 g | C([O-])(O)=O.[K+]
reactant | methanol | 15 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | N-(t-Butoxycarbonyl)-α-(3-hydroxy-2,3,4,5-tetrahydro-3-thiofuranyl)glycine | C(C)(C)(C)OC(=O)NC(C(=O)O)C1(CSCC1)O | C11H19NO5S
